US09120773B2
Then in a stream of argon, 0.5 g (0.96 mmol) of the obtained 2-[3-chloro-5-(9-phenanthryl)phenyl]-4,6-diphenyl-1,3,5-triazine, 038 g (1.73 mmol) of 1-naphthaleneboronic acid, 12.9 mg (0.058 mmol) of palladium acetate and 1.13 g (3.46 mmol) of cesium carbonate were suspended in 50 mL of tetrahydrofuran, and the temperature of the obtained suspension was elevated to 70° C. and distilled under reflux for 40 hours. The resultant reaction mixture was cooled to room temperature, and then distilled under a reduced pressure to remove all volatile materials. Methanol was added to the concentrate, and the thus-deposited solid was collected by filtration. The thus-obtained crude product was purified by column chromatography to give 0.56 g of the target 2-[3-(1-naphthyl)-5-(9-phenanthryl)phenyl]-4,6-diphenyl-1,3,5-triazine as grayish white solid (yield: 95%).

reactant | 2-[3-chloro-5-(9-phenanthryl)phenyl]-4,6-diphenyl-1,3,5-triazine | 0.96 mmol, 0.5 g | ClC=1C=C(C=C(C1)C=1C2=CC=CC=C2C=2C=CC=CC2C1)C1=NC(=NC(=N1)C1=CC=CC=C1)C1=CC=CC=C1 | C35H22ClN3
reactant | 1-naphthaleneboronic acid | 1.73 mmol | C1(=CC=CC2=CC=CC=C12)B(O)O | C10H9BO2
reactant | cesium carbonate | 3.46 mmol, 1.13 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
catalyst | palladium acetate | 0.058 mmol, 12.9 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-[3-(1-naphthyl)-5-(9-phenanthryl)phenyl]-4,6-diphenyl-1,3,5-triazine | yield: 95% | C1(=CC=CC2=CC=CC=C12)C=1C=C(C=C(C1)C=1C2=CC=CC=C2C=2C=CC=CC2C1)C1=NC(=NC(=N1)C1=CC=CC=C1)C1=CC=CC=C1 | C45H29N3
